US07563805B2
(3R)-3-(tert-Butoxycarbonylamino)-4-fluoro-3-methylpyrrolidine (isomer A)
To a solution of (3R)-1-benzyloxycarbonyl-3-(tert-butoxycarbonylamino)-4-fluoro-3-methylpyrrolidine (isomer A) (271 mg, 0.769 mmol) in ethanol (10 mL) was added 10% palladium-carbon catalyst (containing 52.8% water, 27.0 mg), and the suspension was stirred for 2 hours in hydrogen gas atmosphere. After removing the catalyst by filtration, the filtrate was concentrated under reduced pressure to obtain 156 mg (93%) of the crude target compound (isomer A) as a colorless transparent syrup substance.

reactant | (3R)-1-benzyloxycarbonyl-3-(tert-butoxycarbonylamino)-4-fluoro-3-methylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@@](C(C1)F)(C)NC(=O)OC(C)(C)C | C18H25FN2O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 27.0 mg | [C].[Pd]
solvent | hydrogen | [H][H] | H2
product | (3R)-3-(tert-Butoxycarbonylamino)-4-fluoro-3-methylpyrrolidine | C(C)(C)(C)OC(=O)N[C@@]1(CNCC1F)C | C10H19FN2O2
